US09315494B2
A stirred mixture of 4-bromo-2-methylthiazole (128 mg, 0.719 mmol), 2-methoxy-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline (197 mg, 0.791 mmol) and 1,1′-bis(di-tert-Butylphosphino)ferrocene palladium dichloride (14.06 mg, 0.022 mmol) in dioxane (4 mL) was degassed by bubbling nitrogen through the mixture for 5 minutes. To this was added aqueous potassium phosphate (K3PO4, 2M, 1.078 mL, 2.157 mmol) and the reaction mixture was heated to 100° C. for one hour. The reaction mixture was cooled to room temperature, then diluted with ethyl acetate (75 mL). This solution was then dried over sodium sulfate, filtered, concentrated and purified by flash chromatography, eluting with 0-100% EtOAc in hexanes. Afforded 2-methoxy-3-(2-methylthiazol-4-yl)aniline (122 mg, 0.543 mmol, 75% yield) as a yellow oil. LC retention time 0.60 [J]. m/z: 221 (MH+).

reactant | 4-bromo-2-methylthiazole | 0.719 mmol, 128 mg | BrC=1N=C(SC1)C | C4H4BrNS
reactant | 2-methoxy-3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)aniline | 0.791 mmol, 197 mg | COC1=C(N)C=CC=C1B1OC(C(O1)(C)C)(C)C | C13H20BNO3
reactant | potassium phosphate | 2.157 mmol, 2M, 1.078 mL | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
solvent | dioxane | 4 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 75 mL | C(C)(=O)OCC | C4H8O2
catalyst | 1,1′-bis(di-tert-Butylphosphino)ferrocene palladium dichloride | 0.022 mmol, 14.06 mg | [Pd](Cl)Cl.C(C)(C)(C)P([C-]1C=CC=C1)C(C)(C)C.[C-]1(C=CC=C1)P(C(C)(C)C)C(C)(C)C.[Fe+2]
product | 2-methoxy-3-(2-methylthiazol-4-yl)aniline | 0.543 mmol, 122 mg, 75% yield | COC1=C(N)C=CC=C1C=1N=C(SC1)C | C11H12N2OS
